US07423050B2
19. 2,4,6-Trifluoro-N-[6-(1-propylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide
Mix 2,4,6-trifluoro-N-[6-(piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide (50 mg), propionaldehyde (80 mg), sodium triacetoxyborohydride (38 mg) and acetic acid (21 mg) with dichloromethane (5 mL) and stir for 1.5 hrs. Dilute with methanol and load on a SCX column (10 g), wash with methanol, elute the product with 2M NH3-methanol. Purify the product on a silica gel column (10 g, dichloromethane/2M NH3 in methanol, gradient) to obtain the title compound as a free base (26 mg). Mass spectrum (electrospray) m/z=406 (M+1); 1H NMR (CDCl3): 8.52 (d, 1H), 8.38 (br, 1H), 7.92 (t, 1H), 7.82 (dd, 1H), 6.82 (m, 2H), 3.61 (br, 1H), 3.00 (m, 2H), 2.34 (m, 2H), 2.11 (m, 2H), 1.87 (m, 3H), 1.60 (m, 5H), 0.90 (t, J=7.3 Hz, 3H).

reactant | 2,4,6-trifluoro-N-[6-(piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | 50 mg | FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCNCC2)C(=CC(=C1)F)F | C18H16F3N3O2
reactant | propionaldehyde | 80 mg | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 38 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 21 mg | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2,4,6-Trifluoro-N-[6-(1-propylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)CCC)C(=CC(=C1)F)F | C21H22F3N3O2
